US04026936
A suspension of 20 g. (0.082 mol) of 4-(3-nitro-4-aminobenzoyl)pyridine in 1 liter of tetrahydrofuran containing 5 g. of 5% palladium on carbon was reduced with hydrogen under a pressure of 3 atmospheres. The resulting mixture was filtered and concentrated in vacuo to reddish oil which was dissolved in a minimum amount of methylene chloride and diluted with petroleum ether to yield 4-(3,4-diaminobenzoyl)pyridine as an unstable orange solid, mp. 210° -214° C. (water-Norite).

reactant | 4-(3-nitro-4-aminobenzoyl)pyridine | 0.082 mol | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=NC=C2)C=CC1N | C12H9N3O3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 1 liter, 5 g | O1CCCC1 | C4H8O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(3,4-diaminobenzoyl)pyridine | NC=1C=C(C(=O)C2=CC=NC=C2)C=CC1N | C12H11N3O
